US07342021B2
6-Cyclopropylamino-9-(2-fluorobenzyl)-2-trifluoromethylpurine
A mixture of 100 mg (0.30 mmol) of 6-chloro-9-(2-fluorobenzyl)-2-trifluoromethylpurine, 1 mL (14 mmol) of aminocyclopropane, and 5 mL of EtOH were stirred at room temperature for 16 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in CH2Cl2, washed with 2×5 mL H2O, 5 mL brine, dried (Na2SO4), and concentrated. Chromatography over silica gel using 33% EtOAc in hexanes as eluant provided 102 mg (97% yield) of the desired product. M.P. 118.5-119.0° C.; 1H NMR (CDCl3) δ 7.892 (s, 1H), 7.50-7.39 (m, 1H), 7.37-7.29 (m, 1H), 7.18-7.05 (m, 2H), 5.95 (bs, 1H), 5.44 (s, 2H), 0.94-0.91 (m, 2H), 0.65-0.64 (m, 2H).

reactant | 6-chloro-9-(2-fluorobenzyl)-2-trifluoromethylpurine | 0.30 mmol, 100 mg | ClC1=C2N=CN(C2=NC(=N1)C(F)(F)F)CC1=C(C=CC=C1)F | C13H7ClF4N4
reactant | aminocyclopropane | 14 mmol, 1 mL | NC1CC1 | C3H7N
solvent | EtOH | 5 mL | CCO | C2H6O
product | 6-Cyclopropylamino-9-(2-fluorobenzyl)-2-trifluoromethylpurine | 102 mg, 97% yield | C1(CC1)NC1=C2N=CN(C2=NC(=N1)C(F)(F)F)CC1=C(C=CC=C1)F | C16H13F4N5
